### PR TITLE
Support monpreds

### PR DESCRIPTION
**Pull request by paldepind**
When using propositions of the form `monPred I PROP`, starting the proof mode with `iStartProof PROP` (i.e. starting a proof with the underlying `PROP` as the type of propositions) names are not carried properly into the proofmode. The test in this MR probably shows the issue.

Intuitively the solution is to add an instance for `MakeMonPredAt`. But since `named` isn't sealed this doesn't work. Instead this MR adds a hint to the type class search that seems to work well 🙂

### CODE REVIEW

File: tests/named_props.v [hunk 1]
```diff
@@ -305,4 +305,13 @@ Section tests.
       iFrame.
   Qed.
 
+  Example test_monpred_named {I : biIndex} P1 (P2 : monPred I PROP) :
+    "H1" ∷ ⎡P1⎤ ∗ "H2" ∷ P2 -∗ ⎡P1⎤ ∗ P2.
+  Proof.
+    iStartProof PROP.
+    iIntros (i).
```
Comment (paldepind) [inline tests/named_props.v:312]: Before this MR the state after the `iIntro` was:

```
P1 ∗ ("H2" ∷ P2) i -∗ P1 ∗ P2 i
```

The first name is lost and the second one is under the application. After this MR the state is instead:

```
"H1" ∷ P1 ∗ "H2" ∷ P2 i -∗ P1 ∗ P2 i
```

which is what one wants 🙂

File: src/named_props.v [hunk 2]
```diff
@@ -148,6 +148,13 @@ Global Instance is_splittable_sep {PROP:bi} (P Q: PROP) :
   IsSplittable (P ∗ Q).
 Proof. Qed.
 
+Lemma make_monPred_at_named {I : biIndex} {PROP : bi} name (i : I) (P : monPred I PROP) (𝓟 : PROP) :
+  MakeMonPredAt i P 𝓟 →
+  MakeMonPredAt i (named name P) (named name 𝓟).
+Proof. done. Qed.
+
+Global Hint Extern 0 (MakeMonPredAt _ (named _ _) _) => apply make_monPred_at_named : typeclass_instances.
```
Comment (paldepind) [inline src/named_props.v:156]: Making this an `Instance` causes type class search to take forever. Using `Hint Immediate` with `make_monPred_at_named` causes Coq to apply `make_monPred_at_named` even when it shouldn't (with an ever for `name`). This hint seems to work.

File: tests/named_props.v (hunk 1 above)
Comment (tchajed) [reply tests/named_props.v:312]: Could you test for this? We have the usual Iris testing infrastructure here; in case you haven't used it:
- add `Check "test_monpred_named".` before the test to label the output
- add a `Show` command after the `iIntro`
- re-generate the reference output with `make MAKE_REF=1`

File: src/named_props.v (hunk 2 above)
Comment (tchajed) [reply src/named_props.v:156]: I'm happy with your reasoning and testing for using a hint extern with cost 0.

Could you add a comment to this hint extern? I guess the idea is that when a monPred is imported, we want to preserve names rather than reducing them away?

File: tests/named_props.v (hunk 1 above)
Comment (paldepind) [reply tests/named_props.v:313]: I've added a test for the output. Thanks for the the instructions.

File: src/named_props.v (hunk 2 above)
Comment (paldepind) [reply src/named_props.v:159]: > I guess the idea is that when a monPred is imported, we want to preserve names rather than reducing them away?

Yes 🙂. `iStartProof PROP` uses `MakeMonPredAt` to construct propositions of type `PROP` and we want named propositions in the `monPred` to be turned into named propositions in the underlying `PROP`.

I've added a comment that explains why `make_monPred_at_named` is not just an instance.

**Comment by paldepind** [comment]
Thanks for reviewing and merging 😊

**Comment by tchajed** [comment]
Yeah, thanks for contributing! I never would have figured out on my own that the library doesn't work with monPred but it definitely should.
